US07538231B2
Step A: 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione
A solution of Meldrum's acid (10 g, 69.4 mmol) in CH2Cl2 (170 mL) was cooled to 0° C. Pyridine (11.2 ml, 138.8 mmol) and propanoyl chloride (10.1 mL, 76.3 mmol) were added via syringe. The resulting solution was stirred at 0° C. for 1 hour, then warmed to room temperature and stirred for 1 hour. The reaction was diluted with CH2Cl2 and washed with aq HCl (15 mL conc HCl in 200 mL water, 1×) and water (1×). The organic solution was dried over Na2SO4 and concentrated to give a dark red solid.

reactant | Meldrum's acid | 69.4 mmol, 10 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | Pyridine | 138.8 mmol, 11.2 ml | N1=CC=CC=C1 | C5H5N
reactant | propanoyl chloride | 76.3 mmol, 10.1 mL | C(CC)(=O)Cl | C3H5ClO
solvent | CH2Cl2 | 170 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | OC(CC)=C1C(OC(OC1=O)(C)C)=O | C9H12O5
